US05563163
A solution of 4 9.8 g (0.199 mol) of 2-hydroxy-5-(1,1,3,3-tetramethylbutyl)benzoic acid in 200 ml of methanol was heated to 50° C. and then treated dropwise with about 80 g of sulfuric acid at a rate to maintain the reaction under reflux. The reaction mixture was heated under reflux for an additional 11 hours, then cooled and partitioned between water and ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, then with brine, dried over sodium sulfate and taken to dryness to give 48.6 g (92%) of methyl 2-hydroxy-5-(1,1,3,3-tetramethylbutyl]benzoate.

reactant | 2-hydroxy-5-(1,1,3,3-tetramethylbutyl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C(CC(C)(C)C)(C)C | C15H22O3
reactant | sulfuric acid | about 80 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 ml | CO | CH4O
product | methyl 2-hydroxy-5-(1,1,3,3-tetramethylbutyl]benzoate | 48.6 g, 92% | OC1=C(C(=O)OC)C=C(C=C1)C(CC(C)(C)C)(C)C | C16H24O3
